US07795236B2
2-(Phenylthio)benzaldehyde
To a solution of 4-fluorobenzaldehyde (0.443 mL) in 1,3-dimethyl-2-imidazolidinone (6.4 mL) was added potassium carbonate (0.659 g). Then benzenethiol (0.326 mL) was added, and the resulting mixture was stirred at 120° C. for 2.5 hours. The reaction mixture was cooled to room temperature and then partitioned between diethyl ether (60 mL) and water (15 mL). The organic layer was washed successively with water (15 mL×2) and brine (15 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title compound (0.826 g).

reactant | 4-fluorobenzaldehyde | 0.443 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | potassium carbonate | 0.659 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzenethiol | 0.326 mL | C1(=CC=CC=C1)S | C6H6S
solvent | 1,3-dimethyl-2-imidazolidinone | 6.4 mL | CN1C(N(CC1)C)=O | C5H10N2O
product | 2-(Phenylthio)benzaldehyde | 0.826 g | C1(=CC=CC=C1)SC1=C(C=O)C=CC=C1 | C13H10OS
